Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
transient monocular vision loss

 
Major Surgical or Invasive Procedure:
n/a

 
History of Present Illness:
Ms. ___ is a ___ old right-handed woman with a past 
medical
history of rheumatoid arthritis on Methotrexate, PVD and
hyperlipidemia who presents with an acute onset of transient 
right eye
monocular vision loss as well as subacute left sided neck pain. 

Patients was watching a play last night at 8:30pm when she
developed sudden onset blackening of the vision in her right 
eye.
She describes a curtain coming up from the bottom of her visual
field about ___ up. She was only able to see out of the top
portion of her vision when covering her left eye. When covering
her right eye, she was able to see clearly. This lasted between
30 seconds and 1 minute. Her vision normalized afterwards. There
was no associated eye pain. However, she did report a mild
bifrontal pressure-like headache, about ___ in severity, which
started gradually about 1 hour before the eye symptoms and
persisted for about 1.5 hours total. There was no throbbing
quality. The headache went away and returned this morning,
intermittently, with the same characteristics as last night. She
denies jaw claudication but does report severe scalp tenderness
over the right temple about 3 weeks ago which lasted about 3
days. 

She denies vision loss in the past, but does report intermittent
"blurry/double" vision over the past few months, which is
accompanied by lightheadedness (no vertigo) and lasts about 30
seconds to 1 minute. This almost always happens when she is
dehydrated and improves with drinking water. The episodes 
usually
occur about once every 2 weeks, but happened again this morning
where she reported vertical diplopia x 30 seconds, so given the
combination of events from last night and today, she presented 
to
the ED at ___. There, she had basic labs and a 
head
CT which was unremarkable. She was sent to ___ for further
management. 

Of note, on review of systems, she reports a three week history
of left neck and shoulder pain. This pain began in her left
shoulder and radiated into her neck, lasting about a week and 
was
improved with Vicodin and Flexeril. She then developed a
different type of pain over her left neck, but more midline,
which was atraumatic and sudden onset. This pain keeps her awake
at night and pains her with any lateral movement on the head.   

On neuro ROS, the pt denies dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness, numbness, parasthesias. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies right shoulder or 
hip
pain. Rest of the review of systems as above. 
 
Past Medical History:
Rheumatoid arthritis x ___ years 
Hyperlipidemia
Thyroid nodule
Peripheral vascular disease with stent in left leg 
Removal of lymph nodes in groin and wrists (no cancer per pt)

Home Medications (confirmed with pt):
Acyclovir 400mg bID prn cold sore
Celecoxib 200mg po daily
Vitamin D2 50,000u q7d
Folic acid 1mg po daily
Vicodin ___ po BID prn pain
Methotrexate 25mg po q7 days (___)
Multivitamin 1 tab daily
Simvastatin 10mg po nightly
Methimazole 5mg 3x/week
Prednisone 2.5mg po daily (for RA flares, last taken ___ months
ago)

Allergies: NKDA    
 
Social History:
___
Family History:
Father with MI at ___ y/o
MGM, maternal aunt and paternal aunt with RA

 
Physical Exam:
Vitals: T: 97.2  P: 74  R: 16  BP: 129/79  SaO2: 100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, reduced range of motion of neck from side to side
due to pain. No tenderness over trap or suboccipital muscles, 
but
does have left sided muscle spasm. No scleral icterus noted, 
MMM,
no lesions noted in oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR
Abdomen: soft, ND.
Extremities: Severe joint deformities of the hands and feet
bilaterally. 
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1.5mm and brisk. EOMI without
nystagmus. VFF to confrontation. Unable to visualize fundi
despite multiple attempts. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IP Quad Ham TA ___  ___ 
L  5-   ___   5  2*  5   5    5  5     5     5   
R  5    ___   5  2*  5   5    5  5     5     5   
*unable to lift AG likely due to RA

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    3   2
R  3  2    3    3   2
No pec jerk, crossed adductor on the right only. 
Plantar response was withdrawal bilaterally.

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Unable to walk in tandem. Romberg absent. 

_______________________________________________________________
Discharge Exam:
MS: alert, oriented, speech fluent, no dysarthria
CN: EOM full with conjugate gaze, tongue midline, V1-V3 intact 
to light touch, VFF, SCM/Trapezius equal and full
Motor: normal tone/bulk
Bilateral UE ___ (delt, bi, tri); Bilateral ___ ___ (IP, quad, 
ham, TA, ___
Reflex Brachio ___ and Quad ___ bilateral
Sensory: intact to light touch throughout
Gait: Deferred
 
Pertinent Results:
___ 05:00AM BLOOD WBC-8.2 RBC-4.26 Hgb-13.2 Hct-40.0 MCV-94 
MCH-31.0 MCHC-33.0 RDW-12.5 RDWSD-42.9 Plt ___
___ 05:00AM BLOOD Plt ___
___ 05:00AM BLOOD Glucose-83 UreaN-14 Creat-0.5 Na-140 
K-4.2 Cl-105 HCO3-25 AnGap-14
___ 03:40PM BLOOD ALT-15 AST-17 AlkPhos-116* TotBili-0.3
___ 05:00AM BLOOD Calcium-8.8 Phos-3.6 Mg-2.3
___ 04:45AM BLOOD %HbA1c-4.9 eAG-94
___ 04:45AM BLOOD Triglyc-48 HDL-61 CHOL/HD-3.7 
LDLcalc-153*
___ 04:45AM BLOOD TSH-0.13*
___ 03:40PM BLOOD CRP-5.8*
___ 03:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:30PM URINE  HOURS-RANDOM
___ 06:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:30PM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 06:30PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:30PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 06:30PM URINE  MUCOUS-RARE
___ 03:40PM   GLUCOSE-105* UREA N-17 CREAT-0.6 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-107 TOTAL CO2-25 ANION GAP-13
___ 03:40PM   estGFR-Using this
___ 03:40PM   ALT(SGPT)-15 AST(SGOT)-17 ALK PHOS-116* TOT 
BILI-0.3
___ 03:40PM   ALBUMIN-4.0
___ 03:40PM   CRP-5.8*
___ 03:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 03:40PM   WBC-7.3 RBC-4.49 HGB-14.0 HCT-41.4 MCV-92 
MCH-31.2 MCHC-33.8 RDW-13.0 RDWSD-43.0
___ 03:40PM   NEUTS-64.4 ___ MONOS-7.8 EOS-2.0 
BASOS-0.3 IM ___ AbsNeut-4.72 AbsLymp-1.85 AbsMono-0.57 
AbsEos-0.15 AbsBaso-0.02
___ 03:40PM   ___ PTT-34.0 ___
 
Brief Hospital Course:
Ms. ___ is a ___ old right-handed woman with a past 
medical history of rheumatoid arthritis on Methotrexate, PVD and 
hyperlipidemia who presents acute onset transient right eye 
monocular vision loss. She was admitted for TIA evaluation. 
Neurologic examination was reassuring. MRI and MRA did not show 
any hemodynamically significant stenosis. A transthoracic 
Echocardiogram was obtained which was normal. She was started on 
an Aspirin for secondary prevention. She will be followed as an 
outpatient in the Neurology clinic. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO BID:PRN cold sore 
2. Celecoxib 200 mg oral Q24H 
3. Vitamin D ___ UNIT PO 1X/WEEK (FR) 
4. FoLIC Acid 1 mg PO DAILY 
5. Methotrexate 25 mg PO QSUN 
6. Simvastatin 10 mg PO QPM 
7. Methimazole 5 mg PO 3X/WEEK (___) 
8. PredniSONE 2.5 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain 
- Moderate 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Simvastatin 40 mg PO QPM 
RX *simvastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*1 
3.  Acyclovir 400 mg PO BID:PRN cold sore  
4.  Celecoxib 200 mg oral Q24H  
5.  FoLIC Acid 1 mg PO DAILY  
6.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain 
- Moderate  
7.  Methimazole 5 mg PO 3X/WEEK (___)  
8.  Methotrexate 25 mg PO QSUN  
9.  Multivitamins 1 TAB PO DAILY  
10.  PredniSONE 2.5 mg PO DAILY 
Take as directed by your rheumatologist  
11.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transient Right Eye vision Loss- ? Amaurosis Fugax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

You were hospitalized due to symptoms of vision loss in your 
right eye. These symptoms probably resulted from a TRANSIENT 
ISCHEMIC ATTACK (mini-stroke), a condition where a blood vessel 
providing oxygen and nutrients to the brain or eye is 
transiently  blocked by a clot. 

Stroke and TIA can have many different causes, so we assessed 
you for medical conditions that might raise your risk of having 
stroke. In order to prevent future strokes, we plan to modify 
those risk factors. Your risk factors are:  
- Hyperlipidemia (high cholesterol)
 
We are changing your medications as follows:  
- Starting Aspirin 81mg
- Increasing Simvastatin from 10mg to 40mg Daily
 
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  

 
Followup Instructions:
___